US05606051
i) Sodium (5R,6S)-2-(5-Ethyl-1-methylpyrazol-3-yl)-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate
Allyl (5R,6S)-2-(5-Ethyl-1-methylpyrazol-3-yl)-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate (348 mg) in 1:1 ethyl acetate/dichloromethane (8 ml), under argon was treated successively with sodium 2-ethylhexanoate (198 mg), triphenylphosphine (27 mg) and tetrakis(triphenylphosphine)palladium (0), (38 mg). After a few seconds an off-white precipitate was formed. The reaction mixture was stirred at room temperature for 30m. T.l.c. analysis (20% acetone/ethyl acetate showed no remaining starting material. The solvents were removed in vacuo and the residual solid stirred with diethyl ether (20 ml). The white solid was filtered off washed with ether and dried. This solid was dissolved in water (10 ml) and chromatographed on HP20SS resin eluting with 1-5% tetrahydrofuran/water (100 ml portions ). The combined fractions containing the product (by h.p.l.c.), were concentrated and freeze-dried to give the title compound as an amorphous pale yellow solid, (314 mg, 95%); nmax (KBr) 1755, 1614, 1586 and 1386 cm-1 ; dH (D2O) 1.17 (3H, t, J 7.5 Hz), 1.26 (3H, d, J6.4 Hz), 2.56 (2H, q, J7.5 Hz), 3.16 (2H, m), 3.44 (1H, dd, J2.8,6.0 Hz), 3.68 (3H, s), 4.21 (2H, m) and 6.47 (1H, s), m/z (Electrospray) 328 (MH+), 350 (MNa+), 633 (2MNa+, free acid), 655 (2MH+), 677 (2MNa+).

reactant | Allyl (5R,6S)-2-(5-Ethyl-1-methylpyrazol-3-yl)-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate | 348 mg | C(C)C1=CC(=NN1C)C=1C[C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O | C18H23N3O4
reactant | ethyl acetate dichloromethane | 8 ml | C(C)(=O)OCC.ClCCl
reactant | sodium 2-ethylhexanoate | 198 mg | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | triphenylphosphine | 27 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | tetrakis(triphenylphosphine)palladium | 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | acetone ethyl acetate | CC(=O)C.C(C)(=O)OCC
product | Sodium (5R,6S)-2-(5-Ethyl-1-methylpyrazol-3-yl)-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate | 314 mg, 95% | C(C)C1=CC(=NN1C)C=1C[C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O.[Na+] | InChI=1S/C15H19N3O4.Na/c1-4-8-5-10(16-17(8)3)9-6-11-12(7(2)19)14(20)18(11)13(9)15(21)22;/h5,7,11-12,19H,4,6H2,1-3H3,(H,21,22);/q;+1/p-1/t7-,11-,12-;/m1./s1
